US06451821B1
The process is performed as in Example 2, starting with 1.14 g of (2R)-2-amino-2-butyl-1-ethanol and 1.36 cm3 of tert-butyl isothiocyanate in 15 cm3 of ethanol, with stirring for 18 hours at a temperature in the region of 20° C. and then for 3 hours in the region of 60° C. After concentration of the reaction medium under reduced pressure (5 kPa) at a temperature in the region of 40° C. 2.38 g of N-(tert-butyl)-N′-[(1R)-1-butyl-2-hydroxyethyl]thiourea are obtained in the form of a yellow oil. Infrared spectrum (CH2Cl2): 3620; 4430; 4410; 2960; 1560; 1500; 1395; 1375 and 1205 cm−.

reactant | (2R)-2-amino-2-butyl-1-ethanol | 1.14 g | N[C@@H](CO)CCCC | C6H15NO
reactant | tert-butyl isothiocyanate | 1.36 cm3 | C(C)(C)(C)N=C=S | C5H9NS
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
product | N-(tert-butyl)-N′-[(1R)-1-butyl-2-hydroxyethyl]thiourea | 2.38 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CCCC | C11H24N2OS
